US07138397B2
16.7 ml of triethylamine was added to 200 ml of a tetrahydrofuran solution containing 16 g of 4-amino-1-tert-butoxycarbonylpiperidine and 17.5 g of N-carboethoxyphthalimide under ice-cooling, and the mixture was stirred at room temperature for 4 hours. Water was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium bicarbonate solution, water and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was suspended in ether-hexane, and crystals were collected by filtration to obtain 25.7 g of 2-(1-tert-butoxycarbonyl-4-piperidyl)isoindoline-1,3-dione.

reactant | triethylamine | 16.7 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | 4-amino-1-tert-butoxycarbonylpiperidine | 16 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N-carboethoxyphthalimide | 17.5 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | Water | O | H2O
product | 2-(1-tert-butoxycarbonyl-4-piperidyl)isoindoline-1,3-dione | 25.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H22N2O4
